US04640849
Two equivalents of potassium carbonate are added slowly with stirring to a solution of 4-hydroxybenzaldehyde in acetone. A solution of allyl bromide (1.1 equivalent) in acetone is added and the mixture is refluxed for two hours, filtered to remove inorganic salts and volatiles stripped under reduced pressure. The resulting 4-allyloxybenzaldehyde is then heated for six hours at 220° C. to yield the rearrangement product, 3-allyl-4-hydroxybenzaldehyde. One equivalent of 3-allyl-4-hydroxybenzaldehyde is dissolved in acetone and two equivalents of potassium carbonate are added slowly with stirring followed by a solution of 1.1 equivalents of methyl iodide in acetone. This mixture is refluxed for several hours, filtered and stripped to yield 3-allyl-4-methoxybenzaldehyde.

reactant | 3-allyl-4-hydroxybenzaldehyde | One equivalent | C(C=C)C=1C=C(C=O)C=CC1O | C10H10O2
reactant | potassium carbonate | two equivalents | C([O-])([O-])=O.[K+].[K+]
reactant | methyl iodide | 1.1 equivalents | CI | CH3I
solvent | acetone | CC(=O)C | C3H6O
product | 3-allyl-4-methoxybenzaldehyde | C(C=C)C=1C=C(C=O)C=CC1OC | C11H12O2
